US07838674B2
d) 7-Bromo-2-(3-chloro-4-morpholin-4-yl-phenyl)-6,7-dihydro-5H-quinazolin-8-one
2-(3-Chloro-4-morpholin-4-yl-phenyl)-6,7-dihydro-5H-quinazolin-8-one (328 mg, 0.95 mmol) is dissolved in acetic acid (7 ml) and HBrconc. (7 ml). Bromine in HBrconc. (0.95 ml 1N solution) is added at room temperature. After stirring for one hour the mixture is poured onto ice, neutralized with NaHCO3 and the product is extracted with ethyl acetate. 1H-NMR (400 MHz; DMSO-d6): 9.10 (s, 1H), 8.43 (s, 1H), 8.28 (d, 1H), 7.30 (d, 1H), 5.21(dd, 1H), 3.76 (brs, 4H), 3.09 (brs, 4H), 3.00-2.40 (m, 4H); LC-MS (m/z, ES+): 422 (MH+), Retention time: 3.05 mins (LC-MS method 2)

reactant | 2-(3-Chloro-4-morpholin-4-yl-phenyl)-6,7-dihydro-5H-quinazolin-8-one | 0.95 mmol, 328 mg | ClC=1C=C(C=CC1N1CCOCC1)C1=NC=2C(CCCC2C=N1)=O | C18H18ClN3O2
reactant | Bromine | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 7-Bromo-2-(3-chloro-4-morpholin-4-yl-phenyl)-6,7-dihydro-5H-quinazolin-8-one | BrC1CCC=2C=NC(=NC2C1=O)C1=CC(=C(C=C1)N1CCOCC1)Cl | C18H17BrClN3O2
